### PR TITLE
Feat: Add Reflection Automata Tactic

### PR DESCRIPTION
**Pull request by AtticusKuhn**
Use reflection and meta-programming to add an automata tactic to the decision procedure.

### CODE REVIEW

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 1]
```diff
@@ -363,6 +363,10 @@ Crucially, our decision procedure works by considering which equalities hold for
 --     (∀ w, (x w + y w) = z w) ↔ (∀ w, (ofBitVec (x w)) + (ofBitVec (y w)) ) := by
 --   have ⟨h₁, h₂⟩ : True ∧ True := sorry
 --   sorry
+@[simp] theorem ofBitVec_sub : ofBitVec (x - y) = (ofBitVec x) - (ofBitVec y) := sorry
+@[simp] theorem ofBitVec_add : ofBitVec (x + y) = (ofBitVec x) + (ofBitVec y) := sorry
+@[simp] theorem ofBitVec_neg : ofBitVec (- x ) = -(ofBitVec x) := sorry
+-- @[simp] theorem ofBitVec_sub : ofBitVec (x - y) = (ofBitVec x) - (ofBitVec y) := sorry
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Do you know if we need this comment line?

File: SSA/Experimental/Bits/Fast/Decide.lean [hunk 2]
```diff
@@ -27,8 +27,12 @@ def z := Term.var 2
 example : ((and x y) + (or x y)).eval = (x + y).eval := by
   native_decide
 
-example : ((or x y) - (xor x y)).eval = (and x y).eval := by
+example  : ((or x y) - (xor x y)).eval = (and x y).eval := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Decide.lean]: No double-whitespace after example?

File: SSA/Experimental/Bits/Fast/Decide.lean [hunk 3]
```diff
@@ -27,8 +27,12 @@ def z := Term.var 2
...
   native_decide
+def gh  : Bool :=  (((or x y) - (xor x y)).eval = (and x y).eval)
+
+
+#print gh
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Decide.lean]: What does `gh` mean?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 4]
```diff
@@ -0,0 +1,321 @@
...
+import SSA.Experimental.Bits.Fast.BitStream
+import SSA.Experimental.Bits.Fast.Decide
+
+import SSA.Experimental.Bits.Lemmas
+open Lean Elab Tactic
+open Lean
+open Lean.Meta
+open Lean.Elab
+open Lean.Elab.Tactic
+-- open SSA.Experimental.Bits.Fast.BitStream.ToBitVec
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Do we need this commented line?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 5]
```diff
@@ -0,0 +1,321 @@
...
+set_option linter.longLine false
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: I would suggest to not disable this option.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 6]
```diff
@@ -0,0 +1,321 @@
...
+
+
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Just one (or at most two) empty lines in sequence.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 7]
```diff
@@ -0,0 +1,321 @@
...
+        let a ← getVars a
+        return a
+      | OfNat.ofNat _ _ _ => do
+        return []
+      | _ => match e with
+        | Lean.Expr.fvar a => return [a.name]
+        | _ => throwError s!"getVars:{e} is not a automata expression"
+
+
+def NatToSyntax (n : Nat) :  (TSyntax `term) :=
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
        | _ => throwError s!"getVars:{e} is not a automata expression"

def NatToSyntax (n : Nat) :  (TSyntax `term) :=
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 8]
```diff
@@ -0,0 +1,321 @@
...
+ match n with
+  | 0 => mkIdent `Term.zero
+  | Nat.succ x => Syntax.mkApp (mkIdent `Term.incr) #[NatToSyntax x]
+partial def reflectS  (e : Expr) (names : List Name)  : TacticM (TSyntax `term) := do
+  -- logInfo (repr vars)
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Drop the comment here?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 9]
```diff
@@ -0,0 +1,321 @@
...
+  match_expr e with
+    | HAnd.hAnd _ _ _ _ a b => do
+      let a ← reflectS a names
+      let b ← reflectS b names
+      return Syntax.mkApp (mkIdent `Term.and) #[a,b]
+      -- return .app (.app  (.const `Term.and []) a) b
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Drop this comment?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 10]
```diff
@@ -0,0 +1,321 @@
...
+    | Neg.neg _ _ a => do
+        let a ← reflectS a names
+        return Syntax.mkApp (mkIdent `Term.neg) #[a]
+    | OfNat.ofNat _ b _ => do
+      match b  with
+        | Lean.Expr.lit nv =>  do
+          match nv with
+            | Lean.Literal.natVal n  => do
+              return NatToSyntax n
+              -- sorry
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Drop this comment?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 11]
```diff
@@ -0,0 +1,321 @@
...
+            | _ => throwError s!"Not a literal natval expression at {repr nv}"
+        | _ => throwError s!"Not a Literal expression at {repr b}"
+    | _ => match e with
+      | Lean.Expr.fvar a => return Syntax.mkApp (mkIdent `Term.var) #[Syntax.mkNumLit (toString (names.indexOf (a.name)))]
+      | _ => throwError s!"reflectS: {e} is not a automata expression"
+
+partial def reflectS2  (e : Expr)  (names : List Name) : TacticM (TSyntax `term) := do
+  -- logInfo (repr vars)
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Drop this comment?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 12]
```diff
@@ -0,0 +1,321 @@
...
+  match_expr e with
+    | HAnd.hAnd _ _ _ _ a b => do
+      let a ← reflectS2 a names
+      let b ← reflectS2 b names
+      return Syntax.mkApp (mkIdent `HAnd.hAnd) #[a,b]
+      -- return .app (.app  (.const `Term.and []) a) b
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Drop this comment?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 13]
```diff
@@ -0,0 +1,321 @@
...
+      | Lean.Expr.fvar (⟨a⟩ ) =>  `(vars  $(Syntax.mkNumLit (toString (names.indexOf (a)))) )
+      | _ => throwError s!"reflectS2: {e} is not a automata expression"
+
+def printGoal : TacticM Unit := do
+  let goal ← getMainTarget
+  logInfo (repr goal)
+elab "printGoal" : tactic => printGoal
+
+
+def listExpr (t : Expr) (exprs : List Lean.Expr) : Lean.Expr :=
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion

def listExpr (t : Expr) (exprs : List Lean.Expr) : Lean.Expr :=
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 14]
```diff
@@ -0,0 +1,321 @@
...
+  | n + 1 => .app (.const ``Nat.succ []) (natExpr n)
+
+def quote (x : _root_.Term) : TSyntax `term :=
+  match x with
+    | .sub a b => Syntax.mkApp (mkIdent `Term.sub) #[quote a,quote b]
+    | .and a b => Syntax.mkApp (mkIdent `Term.and) #[quote a,quote b]
+    | .or a b => Syntax.mkApp (mkIdent `Term.or) #[quote a,quote b]
+    | .xor a b => Syntax.mkApp (mkIdent `Term.xor) #[quote a,quote b]
+    | .var a => Syntax.mkApp (mkIdent `Term.var) #[Syntax.mkNumLit (toString a)]
+    | _ => Syntax.mkApp (mkIdent `Term.sub) #[]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Maybe a newline here to separate quote from sub_eval?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 15]
```diff
@@ -0,0 +1,321 @@
...
+def sub_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.sub x y).eval vars = x.eval vars - y.eval vars := sorry
+def add_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.add x y).eval vars = x.eval vars + y.eval vars := sorry
+def neg_eval {x :  _root_.Term} {vars : Nat → BitStream} :(Term.neg x).eval vars = - x.eval vars := sorry
+def and_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.and x y).eval vars = x.eval vars &&& y.eval vars := sorry
+def xor_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.xor x y).eval vars = x.eval vars ^^^ y.eval vars := sorry
+def or_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.or x y).eval vars = x.eval vars ||| y.eval vars := sorry
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def sub_eval {x y : _root_.Term} {vars : Nat → BitStream} :(Term.sub x y).eval vars = x.eval vars - y.eval vars := sorry
def add_eval {x y : _root_.Term} {vars : Nat → BitStream} :(Term.add x y).eval vars = x.eval vars + y.eval vars := sorry
def neg_eval {x : _root_.Term} {vars : Nat → BitStream} :(Term.neg x).eval vars = - x.eval vars := sorry
def and_eval {x y : _root_.Term} {vars : Nat → BitStream} :(Term.and x y).eval vars = x.eval vars &&& y.eval vars := sorry
def xor_eval {x y : _root_.Term} {vars : Nat → BitStream} :(Term.xor x y).eval vars = x.eval vars ^^^ y.eval vars := sorry
def or_eval {x y : _root_.Term} {vars : Nat → BitStream} :(Term.or x y).eval vars = x.eval vars ||| y.eval vars := sorry
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 16]
```diff
@@ -0,0 +1,321 @@
...
+
+def assertGoal : TacticM Unit  := do withMainContext <| do
+  let goal ← getMainTarget
+  -- simp
+  let name := (← getLCtx).foldl (· ++ toString ·.userName) ""
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
  let name := (← getLCtx).foldl (· ++ toString ·.userName) ""
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 17]
```diff
@@ -0,0 +1,321 @@
...
+    | _ => do
+      throwError m!"{name}: Equality expected, found {goal}"
+
+
+elab "bv_automata" : tactic => assertGoal
+
+
+
+
+def test1 (x y : BitVec 2):  (x  ||| y) -  (x ^^^ y) =  x &&& y := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion

def test1 (x y : BitVec 2):  (x  ||| y) -  (x ^^^ y) =  x &&& y := by
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 18]
```diff
@@ -0,0 +1,321 @@
...
+              try rfl
+              )))
+          logInfo s!"bv automata tactic succeeded"
+          return ()
+        | _ => do
+          throwError m!"{name}: Equality not on the type of BitVectors. It is instead on another type {type}"
+    | _ => do
+      throwError m!"{name}: Equality expected, found {goal}"
+
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
      throwError m!"{name}: Equality expected, found {goal}"

```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 19]
```diff
@@ -0,0 +1,316 @@
...
+elab "bv_automata" : tactic => assertGoal
+
+
+
+
+def test1 (x y : BitVec 2):  (x  ||| y) -  (x ^^^ y) =  x &&& y := by
+  bv_automata
+
+def test5 (x y : BitVec 2) :(x + -y) = (x - y):= by bv_automata
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def test5 (x y : BitVec 2) : (x + -y) = (x - y) := by
  bv_automata

```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 20]
```diff
@@ -0,0 +1,316 @@
...
+def test7 (x y : BitVec 2) : (x + y) = (y + x):= by bv_automata
+
+def test8 (x y z : BitVec 2) :(x + (y + z)) = (x + y + z):= by bv_automata
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def test7 (x y : BitVec 2) : (x + y) = (y + x):= by
  bv_automata

def test8 (x y z : BitVec 2) : (x + (y + z)) = (x + y + z):= by
  bv_automata
```

**Review by tobiasgrosser — APPROVED** [review]

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 21]
```diff
@@ -0,0 +1,301 @@
...
+    | .xor a b => Syntax.mkApp (mkIdent `Term.xor) #[quote a,quote b]
+    | .var a => Syntax.mkApp (mkIdent `Term.var) #[Syntax.mkNumLit (toString a)]
+    | _ => Syntax.mkApp (mkIdent `Term.sub) #[]
+
+def sub_eval {x y :  _root_.Term} {vars : Nat → BitStream} : (Term.sub x y).eval vars = x.eval vars - y.eval vars   := sorry
+def add_eval {x y : _root_.Term}  {vars : Nat → BitStream} : (Term.add x y).eval vars = x.eval vars + y.eval vars   := sorry
+def neg_eval {x : _root_.Term}    {vars : Nat → BitStream} : (Term.neg x).eval   vars = - x.eval vars               := sorry
+def and_eval {x y :  _root_.Term} {vars : Nat → BitStream} : (Term.and x y).eval vars = x.eval vars &&& y.eval vars := sorry
+def xor_eval {x y :  _root_.Term} {vars : Nat → BitStream} : (Term.xor x y).eval vars = x.eval vars ^^^ y.eval vars := sorry
+def or_eval  {x y : _root_.Term}  {vars : Nat → BitStream} : (Term.or x y).eval  vars = x.eval vars ||| y.eval vars := sorry
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def sub_eval {x y : _root_.Term} {vars : Nat → BitStream} : (Term.sub x y).eval vars = x.eval vars - y.eval vars   := sorry
def add_eval {x y : _root_.Term}  {vars : Nat → BitStream} : (Term.add x y).eval vars = x.eval vars + y.eval vars   := sorry
def neg_eval {x : _root_.Term}    {vars : Nat → BitStream} : (Term.neg x).eval   vars = - x.eval vars               := sorry
def and_eval {x y : _root_.Term} {vars : Nat → BitStream} : (Term.and x y).eval vars = x.eval vars &&& y.eval vars := sorry
def xor_eval {x y : _root_.Term} {vars : Nat → BitStream} : (Term.xor x y).eval vars = x.eval vars ^^^ y.eval vars := sorry
def or_eval  {x y : _root_.Term}  {vars : Nat → BitStream} : (Term.or x y).eval  vars = x.eval vars ||| y.eval vars := sorry
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 22]
```diff
@@ -0,0 +1,301 @@
...
+              simp only [vars, List.getD, Option.getD,List.get? ] at rhs
+              simp only [vars, List.getD, Option.getD,List.get? ] at lhs
+              try rw [← rhs]
+              try rw [← lhs]
+              try rw [decided]
+              intros _ _
+              try rfl
+              )))
+          logInfo s!"{name}: bv automata tactic succeeded"
+          return ()
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
          return ()
```

I do not think we need this message, as the tactic will show the success in the goal state already.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 23]
```diff
@@ -0,0 +1,301 @@
...
+        let a ← getVars a
+        return a
+      | OfNat.ofNat _ _ _ => do
+        return []
+      | _ => match e with
+        | Lean.Expr.fvar a => return [a.name]
+        | _ => throwError s!"getVars:{e} is not a automata expression"
+
+
+def NatToSyntax (n : Nat) :  (TSyntax `term) :=
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def NatToSyntax (n : Nat) :  Term :=
```
And in general always prefer double backtick'ed names or predefined `TSyntax` abbrevs.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 24]
```diff
@@ -0,0 +1,301 @@
...
+        return Syntax.mkApp (mkIdent `Neg.neg) #[a]
+    | OfNat.ofNat a b _ => do
+      match b  with
+        |  Lean.Expr.lit (Lean.Literal.natVal n ) =>
+          match_expr a with
+          | BitVec h => match_expr h with
+            | OfNat.ofNat _ g _  =>
+              match g with
+                |  Lean.Expr.lit (Lean.Literal.natVal _ ) => `(@OfNat.ofNat (BitStream) $(Lean.quote n) BitStream.instOfNat)
+                | _ => throwError "no"
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Is it easy to turn this into a `throwErrorAt`? And if so, is it worth it?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 25]
```diff
@@ -0,0 +1,301 @@
...
+      | _ => throwError s!"reflectS2: {e} is not a automata expression"
+
+def listExpr (t : Expr) (exprs : List Lean.Expr) : Lean.Expr :=
+  let exprType := t
+  let nilExpr := mkApp (.const ``List.nil [Lean.Level.zero]) exprType
+  let consExpr := mkApp (mkConst ``List.cons [Lean.Level.zero]) exprType
+  exprs.foldr (fun e acc => mkApp2 consExpr e acc) nilExpr
+
+def natExpr: Nat → Expr
+  | 0     => Expr.const `zero []
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
  | 0     => Expr.const ``Nat.zero []
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 26]
```diff
@@ -0,0 +1,301 @@
...
+          let ql ← reflectS lhs vars
+          let qr ← reflectS rhs vars
+          let l2 ← reflectS2 lhs vars
+          let r2 ← reflectS2 rhs vars
+          evalTactic (← `(tactic|
+          (
+          apply BitStream.eq_of_ofBitVec_eq
+          repeat (
+            first
+            | simp only [BitStream.ofBitVec_sub]
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Should these be rewritten in form of one large `simp only` for conciseness?

**Review by Equilibris — CHANGES_REQUESTED** [review]
Generally if possible prefer double backticks, does Term.sub exist as a value like this?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 27]
```diff
@@ -0,0 +1,341 @@
...
+
+/--
+Reflect the expression `e` into a Syntax of the terms in the `Term` datatype
+-/
+partial def reflectS (e : _root_.Term) (names : List Name) : TacticM Lean.Term := do
+  match e with
+    | Term.and a b => do
+      let a ← reflectS a names
+      let b ← reflectS b names
+      return Syntax.mkApp (mkIdent ``Term.and) #[a,b]
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: Prefer use of quotation even in small examples like this
```suggestion
      `($a + $b)
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 28]
```diff
@@ -0,0 +1,351 @@
...
+Conver a list of expression to an expression
+-/
+def listExpr (t : Expr) (exprs : List Lean.Expr) : Lean.Expr :=
+  let exprType := t
+  let nilExpr := mkApp (.const ``List.nil [Lean.Level.zero]) exprType
+  let consExpr := mkApp (mkConst ``List.cons [Lean.Level.zero]) exprType
+  exprs.foldr (fun e acc => mkApp2 consExpr e acc) nilExpr
+
+
+def natToTerm (n : Nat) : _root_.Term :=
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: See `quote (n : Nat)`, is this what this function is?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 29]
```diff
@@ -0,0 +1,351 @@
...
+        let b ← getFVars b
+        return a ++ b
+      | Neg.neg _ _ a => do
+        let a ← getFVars a
+        return a
+      | OfNat.ofNat _ _ _ => do
+        return []
+      | _ => match e with
+        | Lean.Expr.fvar a => return [Lean.Expr.fvar a]
+        | _ => throwError s!"getFVars: {e} is not a automata expression"
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: à -> an automata

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 30]
```diff
@@ -0,0 +1,351 @@
...
+        let b ← getVars b
+        return a ++ b
+      | Neg.neg _ _ a => do
+        let a ← getVars a
+        return a
+      | OfNat.ofNat _ _ _ => do
+        return []
+      | _ => match e with
+        | Lean.Expr.fvar a => return [a.name]
+        | _ => throwError s!"getVars:{e} is not a automata expression"
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: à -> an automata

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 31]
```diff
@@ -0,0 +1,351 @@
...
+      let a ← reflectS2 a names
+      `(BitStream.incr $a)
+    | Term.zero => do
+      `(BitStream.zero)
+    | Term.var a  => do
+      `(vars $(Lean.quote a))
+    | _ => throwError "reflectS2: unimplemented case"
+
+/--
+Conver a list of expression to an expression
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: À list of expressionS

File: SSA/Experimental/Bits/Fast/Tactic.lean (hunk 7 above)
Comment (alexkeizer) [reply SSA/Experimental/Bits/Fast/Tactic.lean]: See also the [Quote](https://leanprover-community.github.io/mathlib4_docs/Init/Meta.html#Lean.Quote) typeclass (this def should be an instance).

Note that as a def, this should be named as `lowerCamelCase`, see [the Mathlib naming convention](https://leanprover-community.github.io/contribute/naming.html) for more detail (we generally follow Mathlib style for consistency with the ecosystem)

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 32]
```diff
@@ -363,6 +363,10 @@ Crucially, our decision procedure works by considering which equalities hold for
 --     (∀ w, (x w + y w) = z w) ↔ (∀ w, (ofBitVec (x w)) + (ofBitVec (y w)) ) := by
 --   have ⟨h₁, h₂⟩ : True ∧ True := sorry
 --   sorry
+@[simp] theorem ofBitVec_sub : ofBitVec (x - y) = (ofBitVec x) - (ofBitVec y) := sorry
+@[simp] theorem ofBitVec_add : ofBitVec (x + y) = (ofBitVec x) + (ofBitVec y) := sorry
+@[simp] theorem ofBitVec_neg : ofBitVec (- x ) = -(ofBitVec x) := sorry
+@[simp] theorem ofBitVec_not : ofBitVec (~~~ x ) = ~~~ (ofBitVec x) := sorry
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
@[simp] theorem ofBitVec_neg : ofBitVec (-x) = -(ofBitVec x) := sorry
@[simp] theorem ofBitVec_not : ofBitVec (~~~ x) = ~~~ (ofBitVec x) := sorry
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 33]
```diff
@@ -0,0 +1,133 @@
...
+import SSA.Experimental.Bits.Lemmas
+import Qq.Macro
+open Lean Elab Tactic
+open Lean Meta
+open scoped Qq
+
+set_option linter.longLine false
+
+
+def sub_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.sub x y).eval vars = x.eval vars - y.eval vars := by simp only [Term.eval]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
open scoped Qq

def sub_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.sub x y).eval vars = x.eval vars - y.eval vars := by simp only [Term.eval]
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 34]
```diff
@@ -0,0 +1,133 @@
...
+def add_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.add x y).eval vars = x.eval vars + y.eval vars := by simp only [Term.eval]
+def neg_eval {x :  _root_.Term} {vars : Nat → BitStream} :(Term.neg x).eval vars = - x.eval vars := by simp only [Term.eval]
+def not_eval {x :  _root_.Term} {vars : Nat → BitStream} :(Term.not x).eval vars = ~~~ x.eval vars := by simp only [Term.eval]
+
+def and_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.and x y).eval vars = x.eval vars &&& y.eval vars := by simp only [Term.eval]
+def xor_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.xor x y).eval vars = x.eval vars ^^^ y.eval vars := by simp only [Term.eval]
+def or_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.or x y).eval vars = x.eval vars ||| y.eval vars := by simp only [Term.eval]
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def add_eval {x y : _root_.Term} {vars : Nat → BitStream}:
    (Term.add x y).eval vars = x.eval vars + y.eval vars := by
  simp only [Term.eval]
  
def neg_eval {x : _root_.Term} {vars : Nat → BitStream}:
    (Term.neg x).eval vars = - x.eval vars := by
  simp only [Term.eval]
  
def not_eval {x : _root_.Term} {vars : Nat → BitStream}:
    (Term.not x).eval vars = ~~~ x.eval vars := by
  simp only [Term.eval]

def and_eval {x y : _root_.Term} {vars : Nat → BitStream}:
    (Term.and x y).eval vars = x.eval vars &&& y.eval vars := by
  simp only [Term.eval]
  
def xor_eval {x y : _root_.Term} {vars : Nat → BitStream}:
    (Term.xor x y).eval vars = x.eval vars ^^^ y.eval vars := by
  simp only [Term.eval]
  
def or_eval {x y : _root_.Term} {vars : Nat → BitStream}:
    (Term.or x y).eval vars = x.eval vars ||| y.eval vars := by
  simp only [Term.eval]

```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 35]
```diff
@@ -0,0 +1,133 @@
...
+def quoteFVar  (x : FVarId)  : Q(Nat) := mkNatLit (hash x).val
+/--
+simplify BitStream.ofBitVec x where x is an FVar.
+ -/
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
Simplify BitStream.ofBitVec x where x is an FVar.
 -/
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 36]
```diff
@@ -0,0 +1,133 @@
...
+      match x with
+        | .app (.app (.const ``BitVec.ofNat []) _) _ => do
+          let _ := x.natLit!
+          --- warning: number literals are not implemented yet.
+          return .done { expr := q(Term.eval (Term.zero) $gv) }
+        | _ => throwError s!"{x} is not a nat literal"
+
+/--
+introduce vars which maps variable ids to the variable values
+-/
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
Introduce vars which maps variable ids to the variable values.
-/
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 37]
```diff
@@ -0,0 +1,133 @@
...
+      let hyp : Q(Nat → BitStream) := q(fun _ => BitStream.ofBitVec $hypValue)
+      let newGoal : MVarId ← goal.define `vars hypType hyp
+      replaceMainGoal [newGoal]
+      return ()
+    | _ => throwError "Goal is not of the expected form"
+
+elab "introVars" : tactic => introVars
+/--
+create bv_automata tactic which solves equalities on bitvectors
+-/
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
Create bv_automata tactic which solves equalities on bitvectors.
-/
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 38]
```diff
@@ -0,0 +1,133 @@
...
+
+def test3 (x y : BitVec 300) : ((x ||| y) - (x ^^^ y)) = (x &&& y) := by
+  bv_automata
+
+def test4 (x y : BitVec 2) : (x + -y) = (x - y) := by
+  bv_automata
+
+def test5 (x y : BitVec 2) : (x + y) = (y + x) := by
+  bv_automata
+def test6 (x y z : BitVec 2) : (x + (y + z)) = (x + y + z) := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
  bv_automata
  
def test6 (x y z : BitVec 2) : (x + (y + z)) = (x + y + z) := by
```

**Comment by tobiasgrosser** [comment]
@AtticusKuhn, thank you for the fast turnaround. Could you potentially address my review comments first and -- if @Equilibris is around -- get a final sign-off of this change?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 39]
```diff
@@ -0,0 +1,147 @@
...
+import SSA.Experimental.Bits.Fast.FiniteStateMachine
+import SSA.Experimental.Bits.Fast.BitStream
+import SSA.Experimental.Bits.Fast.Decide
+import SSA.Experimental.Bits.Lemmas
+import Qq.Macro
+open Lean Elab Tactic
+open Lean Meta
+open scoped Qq
+
+def sub_eval {x y :  _root_.Term} {vars : Nat → BitStream} :(Term.sub x y).eval vars = x.eval vars - y.eval vars := by simp only [Term.eval]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def sub_eval {x y : _root_.Term} {vars : Nat → BitStream}:
    (Term.sub x y).eval vars = x.eval vars - y.eval vars := by
  simp only [Term.eval]
```

**Review by Equilibris — APPROVED** [review]
We just had a session looking through the code and LGTM now.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 40]
```diff
@@ -0,0 +1,201 @@
...
+
+The goal of this tactic is to convert expressions of the first kind into the second kind, because
+we have a decision procedure that decides equality on expressions of the second kind.
+-/
+
+
+
+section EvalLemmas
+variable {x y : _root_.Term} {vars : Nat → BitStream}
+def sub_eval :
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/Tactic.lean:35]: This should most likely be a `theorem`, not a `def`, since its type is a `Prop`.

Also, theorems are generally named according to the order *without* dot-notation.
This theorem statement is actually `eval (Term.sub _ _) vars`, so it should be names `eval_sub`.

Idem ditto for the next few theorems
